US07608639B2
3-(4-{3-[4-Chloro-2-(2-fluoro-phenoxy)-phenoxy]-phenoxy}-2-methyl-phenyl)-propionic acid methyl ester
A solution of 3-[4-(3-bromo-phenoxy)-2-methyl-phenyl]-propionic acid methyl ester (0.66 g, 2 mmol), 4-chloro-2-(2-fluoro-phenoxy)-phenol (0.3 g, 1.3 mmol), copper(I) chloride (0.06 g, 0.6 mmol), 2,2,6,6-tetramethyl-3,5-heptanedione (0.06 mL, 0.3 mmol), and cesium carbonate (0.82 g, 2.5 mmol) in NMP (10 mL) is heated to 120° C. The reaction is stirred overnight, and then is cooled to room temperature. The reaction is then quenched with 1N aqueous hydrochloric acid and extracted with ethyl ether. The organic is washed with brine, dried over sodium sulfate, filtered, and the solvent removed. The crude is purified by silica gel column chromatography using 9/1 hexanes/ethyl acetate to elute the pure product. The solvent is removed to afford about 0.072 g (11%) of the desired product. 1H NMR (400 MHz, CDCl3); MS (ES+) m/z mass calcd for C29H24ClFO5 506, found 524 (M+NH4, 100%).

reactant | 3-[4-(3-bromo-phenoxy)-2-methyl-phenyl]-propionic acid methyl ester | 2 mmol, 0.66 g | COC(CCC1=C(C=C(C=C1)OC1=CC(=CC=C1)Br)C)=O | C17H17BrO3
reactant | 4-chloro-2-(2-fluoro-phenoxy)-phenol | 1.3 mmol, 0.3 g | ClC1=CC(=C(C=C1)O)OC1=C(C=CC=C1)F | C12H8ClFO2
reactant | 2,2,6,6-tetramethyl-3,5-heptanedione | 0.3 mmol, 0.06 mL | CC(C)(C(CC(C(C)(C)C)=O)=O)C | C11H20O2
reactant | cesium carbonate | 2.5 mmol, 0.82 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | NMP | 10 mL | CN1CCCC1=O | C5H9NO
catalyst | copper(I) chloride | 0.6 mmol, 0.06 g | [Cu]Cl
product | 3-(4-{3-[4-Chloro-2-(2-fluoro-phenoxy)-phenoxy]-phenoxy}-2-methyl-phenyl)-propionic acid methyl ester | about 0.072 g, 11% | COC(CCC1=C(C=C(C=C1)OC1=CC(=CC=C1)OC1=C(C=C(C=C1)Cl)OC1=C(C=CC=C1)F)C)=O | C29H24ClFO5
